* LM311 VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/07/90 AT 08:15
* REV (N/A)
* CONNECTIONS:      NON-INVERTING INPUT
*                   | INVERTING INPUT
*                   | | POSITIVE POWER SUPPLY
*                   | | | NEGATIVE POWER SUPPLY
*                   | | | | OPEN COLLECTOR OUTPUT
*                   | | | | | OUTPUT GROUND
*                   | | | | | |
.SUBCKT LM311/TI    1 2 3 4 5 6
*
  F1    9  3 V1 1
  IEE   3  7 DC 100.0E-6
  VI1  21  1 DC .45
  VI2  22  2 DC .45
  Q1    9 21  7 QIN
  Q2    8 22  7 QIN
  Q3    9  8  4 QMO
  Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=500)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=102.5E-9)
  E1   10  6  9  4  1
  V1   10 11 DC 0
  Q5    500 11  6 QOC
S 5 500 3 4 ss
.model ss sw Ron=0.1 Vt=2 Vh=-0.5 Roff=99Meg

.MODEL QOC NPN(IS=800.0E-18 BF=103.5E3 CJC=1E-15 TF=11.60E-12 TR=48.19E-9)
  DP    4  3 DX
  RP    3  4 6.667E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS